US07595345B2
H. 4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester
To a −78 C solution of 4-[1-Ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester (2.50 g, 7.47 mmol) in THF (80 ml) is added lithium hexamethyldisilazide (8.22 ml, 8.22 mmol, 1.0 M in THF) and stirred at −78 C for 30 min. Cyclopentanone (730 μL, 8.22 mmol) is added and the reaction mixture warmed to room temperature. The reaction is quenched with saturated aqueous NH4Cl (30 ml) and concentrated. The residue is partitioned between EtOAc (300 ml) and 1.0N HCl (50 ml). The aqueous layer is extracted with EtOAc (100 ml). The combined organic layer are washed with water (50 ml), brine (50 ml), dried (MgSO4), concentrated and chromatographed (120 g SiO2, 5% EtOAc/Hexanes) to yield the title compound (2.45 g, 79%).

reactant | 4-[1-Ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester | 7.47 mmol, 2.50 g | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#C)C)CC)C)=O | C23H26O2
reactant | lithium hexamethyldisilazide | 8.22 mmol, 1.0 M, 8.22 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Cyclopentanone | 8.22 mmol, 730 μL | C1(CCCC1)=O | C5H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 4-{1-Ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid methyl ester | 2.45 g, 79% | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)CC)C)=O | C28H34O3
